US04217453
A solution of sodium methoxide (0.02 mol) in methanol (20 ml) is added to an ice-cold solution of N-(t-butyldimethylsilyl)-3-azido- 4-(2-trifluoroacetoxyethyl)-azetidin-2-one (0.1 mol) in methanol (100 ml). After stirring in the cold for 10 min, the solution is treated with acetic acid (2 ml) and concentrated under vacuum. The residue is taken up in ethyl acetate, washed with water, 5% sodium bicarbonate solution, and brine, dried, and evaporated. The residue is chromatographed on silica gel to give N-(t-butyldimethylsilyl)-3-azido-4-(2-hydroxyethyl)-azetidin-2-one.

reactant | sodium methoxide | 0.02 mol | C[O-].[Na+]
reactant | N-(t-butyldimethylsilyl)-3-azido- 4-(2-trifluoroacetoxyethyl)-azetidin-2-one | 0.1 mol | [Si](C)(C)(C(C)(C)C)N1C(C(C1CCOC(C(F)(F)F)=O)N=[N+]=[N-])=O | C13H21F3N4O3Si
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | N-(t-butyldimethylsilyl)-3-azido-4-(2-hydroxyethyl)-azetidin-2-one | [Si](C)(C)(C(C)(C)C)N1C(C(C1CCO)N=[N+]=[N-])=O | C11H22N4O2Si
